US06949648B2
6,7-Difluoro-3-methyl-1-(3-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinoline-4-one dihydrochloride
To a solution of 4-chloro-6,7-difluoro-3-methyl-1-(3-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (0.70 g, 2.12 mmol) in ethanol (40 mL), 6N hydrochloric acid (2 mL, 12.0 mmol) was added, and the mixture was heated under reflux for 2.5 days. The solution was allowed to cool to room temperature, and the resulting crystals were collected by filtration. The crystals were washed with ethanol and air dried to give the title compound (0.27 g, 33% yield).

reactant | 4-chloro-6,7-difluoro-3-methyl-1-(3-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 2.12 mmol, 0.70 g | ClC1=C2C(=NC3=CC(=C(C=C13)F)F)N(N=C2C)C=2C=NC=CC2 | C16H9ClF2N4
reactant | hydrochloric acid | 12.0 mmol, 6N, 2 mL | Cl | ClH
reactant | ethanol | 40 mL | C(C)O | C2H6O
product | 6,7-Difluoro-3-methyl-1-(3-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinoline-4-one dihydrochloride | 0.27 g, 33% yield | Cl.Cl.FC=1C=C2C(C3=C(NC2=CC1F)N(N=C3C)C=3C=NC=CC3)=O | InChI=1S/C16H10F2N4O.2ClH/c1-8-14-15(23)10-5-11(17)12(18)6-13(10)20-16(14)22(21-8)9-3-2-4-19-7-9;;/h2-7H,1H3,(H,20,23);2*1H
